US08895741B2
A suspension of 4-bromomethylpyridine hydrochloride (1.59 g, 6.3 mmol) in THF (10 mL) was treated dropwise with a solution of potassium carbonate (3.33 g, 24.0 mmol) in H2O (6 mL) at 0-5° C., and the resulting mixture was stirred at 0-5° C. for 10 min before being treated dropwise with a solution of 4-bromo-benzenethiol (1.14 g, 6.0 mmol) in THF (5.0 mL) at 0-5° C. under N2. The resulting reaction mixture was subsequently stirred at 0-5° C. for an additional 20 min. When TLC and LCMS showed that the reaction was complete, the reaction mixture was treated with water (15 mL) and ethyl acetate (25 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic extracts were washed with water (2×15 mL) and saturated aqueous NaCl solution (10 mL), dried over MgSO4, and concentrated in vacuo. The residue was purified by flash column chromatography (5-25% EtOAc-hexane gradient elution) to afford the desired 4-(4-bromo-phenylsulfanylmethyl)pyridine (1.374 g; 82%) as a pale-yellow solid, which was directly used in subsequent reactions.

reactant | 4-bromomethylpyridine hydrochloride | 6.3 mmol, 1.59 g | Cl.BrCC1=CC=NC=C1
reactant | potassium carbonate | 24.0 mmol, 3.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-benzenethiol | 6.0 mmol, 1.14 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | 6 mL | O | H2O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 4-(4-bromo-phenylsulfanylmethyl)pyridine | 1.374 g, 82% | BrC1=CC=C(C=C1)SCC1=CC=NC=C1 | C12H10BrNS
